US07435815B2
N,N-Diethyl-2-[(2-methoxy-phenyl)-(3-methyl-pyridine-2-sulfonyl)-amino]-acetamide
prepared by reaction of [(2-methoxy-phenyl)-(3-methyl-pyridine-2-sulfonyl)-amino]-acetic acid with diethylamine

reactant | [(2-methoxy-phenyl)-(3-methyl-pyridine-2-sulfonyl)-amino]-acetic acid | COC1=C(C=CC=C1)N(S(=O)(=O)C1=NC=CC=C1C)CC(=O)O | C15H16N2O5S
reactant | diethylamine | C(C)NCC | C4H11N
product | N,N-Diethyl-2-[(2-methoxy-phenyl)-(3-methyl-pyridine-2-sulfonyl)-amino]-acetamide | C(C)N(C(CN(S(=O)(=O)C1=NC=CC=C1C)C1=C(C=CC=C1)OC)=O)CC | C19H25N3O4S
